US08242133B2
To a mixture of 0.64 g of 3-chloro-N-[2-hydroxy-5-(trifluoromethylthio)phenyl]isonicotinamide, 6 ml of tetrahydrofuran and 0.53 g of triphenylphosphine, 0.87 g of 40% toluene solution of diethyl azodicarboxylate was added dropwise at room temperature and stirred for 1.5 hours. The reaction mixture was concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to give 0.57 g of 2-(3-chloropyridin-4-yl)-5-(trifluoromethylthio)benzoxazole (hereinafter, referred to as “active compound 77”).

reactant | 3-chloro-N-[2-hydroxy-5-(trifluoromethylthio)phenyl]isonicotinamide | 0.64 g | ClC1=C(C(=O)NC2=C(C=CC(=C2)SC(F)(F)F)O)C=CN=C1 | C13H8ClF3N2O2S
reactant | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
reactant | triphenylphosphine | 0.53 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | toluene | 0.87 g | C1(=CC=CC=C1)C | C7H8
product | 2-(3-chloropyridin-4-yl)-5-(trifluoromethylthio)benzoxazole | 0.57 g | ClC=1C=NC=CC1C=1OC2=C(N1)C=C(C=C2)SC(F)(F)F | C13H6ClF3N2OS
